US04673685
Into a dry 100 ml round bottom 3-necked flask containing a stir bar is added dried methoxymethyltriphenylphosphonium chloride ((C6H5)3P+ --CH2OCH3Cl-) (12.9 g, 37.7 mmol) and 235 ml distilled toluene (stored over molecular sieves). The resulting suspension is stirred in an ice-bath, under argon, until cold and then a 1.55M solution of 18.3 ml (28.3 mmol) of potassium t-amylate in toluene was added dropwise. A bright red solution formed which is stirred at 0° C. for an additional 35 minutes. Thereafter, a solution of 4.8 g (18.8 mmol) of [1β,2α(5Z),3α,4β]-7-(3-formyl)-7-oxabicyclo[2.2.1]hept-2-yl]-5-heptenoic acid, methyl ester in 60 ml toluene is added by means of a dropping funnel over a 35 minute period with the ice-bath still in place. The reaction is then quenched by addition of 2.3 g (39 mmol) of acetic acid in 5 ml ether. The mixture is immediately poured into 200 ml saturated NH4Cl, and extracted with ether (4×200 ml). The combined ether phases are washed with NaCl saturated solution, and dried (MgSO4 anhydrous) and concentrated to yield a yellow oil in a white crystalline solid (triphenylphosphine oxide). This is washed with EtOAc and the material in the washings is purified by chromatography on an LPS-1 silica gel column. The fractions obtained are (A) [1α,2β(5Z), 3β,4α]-7-[[3-(2-oxo)ethyl]-7-oxabicyclo[2.2.1]hept-2-yl]-5-heptenoic acid, methyl ester, (B) [1α,2β(5Z),3β,4α]-7-[3-(2-methoxy)ethendiyl]-7-oxabicyclo[2.2.1]hept-2-yl]-5-heptenoic acid, methyl ester, and (C) [1α,2β(5Z),3β,4α]-7-[[3-(2,2-dimethoxy)ethyl]-7-oxabicylo[2.2.1]hept-2-yl]-5-heptenoic acid, methyl ester.

reactant | methoxymethyltriphenylphosphonium chloride | 37.7 mmol, 12.9 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-heptenoic acid, methyl ester | C(CCCC=CC)(=O)OC | C8H14O2
reactant | acetic acid | 39 mmol, 2.3 g | C(C)(=O)O | C2H4O2
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 5 ml | CCOCC | C4H10O
product | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
